US06514964B1
Step B: 2-(2-(N-(4-(2-propylcarbamoyl)aminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetic acid
A solution of methyl 2-(2-(N-(4-aminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate and 2-propyl isocyanate (1 eq) in ethyl acetate (2 mL) was heated at 60° C. for 48 hrs. The solvent was removed in vacuo and the residue was dissolved in methanol (0.1M) and 1N sodium hydroxide (3 eq). The mixture was heated at 60° C. for 24 hrs. The product was purified by preparative HPLC as a white solid (TFA salt, 55.5 mg, 59%): EI-MS m/z 405 (M+H); 1H-NMR (400 MHz, MeOH-d4): 7.29-7.14 (m, 4H), 4.54 (q, J=15.0 Hz, 2H), 3.79 (m,1H), 3.66 (m, 1H), 3.54 (m, 2H), 3.15-3.06 (m, 4H), 2.84-2.79 (m, 1H), 2.74-2.68 (m, 1H), 2.05-2.00 (m, 1H), 1.62-1.58 (m, 1H), 1.40-1.38 (m, 4H), 1.1 (d, J=6.8 Hz, 6H).

reactant | methyl 2-(2-(N-(4-aminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate | NCCCCNC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C18H27N3O3
reactant | 2-propyl isocyanate | 1 eq | CC(C)N=C=O | C4H7NO
reactant | sodium hydroxide | 1N, 3 eq | [OH-].[Na+]
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-(N-(4-(2-propylcarbamoyl)aminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetic acid | CC(C)NC(=O)NCCCCNC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)O | C21H32N4O4
